US06784323B2
(R)-4-Benzyloxy-3-(4-methoxy-1-methyl-1H-indol-3-yl)-butanal (Table 3, entry 6):
Prepared according to the general procedure from 4-benzyloxy-but-2-enal (285 mg, 1.50 mmol), 4-methoxy-1-methyl-1H-indole (80.5 mg, 0.500 mmol), TFA (7.7 μL, 0.10 mmol) and (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one (24.6 mg, 0.100 mmol) in CH2Cl2 (0.90 mL) and isopropanol (0.10 mL) at −87° C. for 19.5 h to provide, after silica gel chromatography (20:80 EtOAc/hexanes), the title compound as a colorless oil (158 mg, 90% yield, 94% ee). IR (film) 3081, 2961, 2850, 2730, 1719, 1608, 1582, 1548, 1501, 1466, 1454, 1424, 1381, 1334, 1321, 1274,1261, 1180, 1116, 1073, 1026, 782, 714 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.78 (dd, J=2.4, 2.4 Hz, 1H, CHO), 8.03-8.01 (m, 2H, ArH), 7.59-7.53 (m, 1H, ArH, 7.47-7.41 (m, 2H, ArH), 7.16 (t, J=8.4 Hz, 1H, ArH), 6.92 (dd, J=0.6, 8.4 Hz, 1H, ArH), 6.83 (s, 1H, NCH), 6.52 (d, J=7.5 Hz, 1H, ArH), 4.71 (dd, J=5.1, 10.5 Hz, 1H, CH2O), 4.50 (dd, J=8.4, 10.5 Hz, 1H, CH2O), 4.35 (m, 1H, ArCH), 3.94 (s, 1H, OCH3), 3.71 (s, 3H, NCH3), 2.98 (d, J=2.4 Hz, 1H, CH2CO); 2.96 (d, J=2.7 Hz, 1H, CH2CO); 13C NMR (75 MHz, CDCl3) δ 202.5, 166.3, 154.2, 133.0, 130.3, 129.6, 128.6, 128.4, 125.4, 122.9, 116.8, 113.6, 102.8, 99.4, 68.8, 55.3, 47.3, 33.2, 32.2; HRMS (CI) exact mass calcd for (C21H21NO4) requires m/z 351.1471, found m/z 351.1466. [α]D=−13.9 (c=1.0 CHCl3). The enantiomeric ratio was determined by HPLC analysis of the alcohol, obtained by NaBH4 reduction of the aldehyde, using a Chiracel AD and AD guard column (4:96 ethanol/hexanes, 1 mL/min); S isomer tr=58.7 min and R isomer tr=47.5 min.

reactant | 4-benzyloxy-but-2-enal | 1.50 mmol, 285 mg | C(C1=CC=CC=C1)OCC=CC=O | C11H12O2
reactant | 4-methoxy-1-methyl-1H-indole | 0.500 mmol, 80.5 mg | COC1=C2C=CN(C2=CC=C1)C | C10H11NO
reactant | TFA | 0.10 mmol, 7.7 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one | 0.100 mmol, 24.6 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C(C)(C)C)C)=O | C15H22N2O
solvent | CH2Cl2 | 0.90 mL | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 0.10 mL | C(C)(C)O | C3H8O
product | (R)-4-Benzyloxy-3-(4-methoxy-1-methyl-1H-indol-3-yl)-butanal | 158 mg, 90% yield | C(C1=CC=CC=C1)OC[C@H](CC=O)C1=CN(C2=CC=CC(=C12)OC)C | C21H23NO3
